US07572815B2
Step 1: piperidine-4-carboxylic acid-4-t-butylphenyl amide.
Piperidine-1,4-dicarboxylic acid mono-t-butyl ester (10.6 g) was dissolved in dichloromethane (100 ml), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (8.8 g), t-butylaniline (7.3 ml), and triethylamine (12.9 ml) were added, and the mixture was stirred overnight. The reaction mixture was diluted with ethyl acetate, washed with water, and dried over magnesium sulfate. The solvent was evaporated, a 4N solution (140 ml) of hydrogen chloride in dioxane and dioxane (60 ml) were added to the obtained residue, and the mixture was stirred at room temperature for 2 hours. The solvent was evaporated to give the title compound as a crude product.

reactant | Piperidine-1,4-dicarboxylic acid mono-t-butyl ester | 10.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 8.8 g | Cl.C(C)N=C=NCCCN(C)C
reactant | t-butylaniline | 7.3 ml | C(C)(C)(C)NC1=CC=CC=C1 | C10H15N
reactant | triethylamine | 12.9 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | piperidine-4-carboxylic acid-4-t-butylphenyl amide | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C1CCNCC1 | C16H24N2O
